US04639517
In this example, a methylene chloride solution of N-oxydiethylenethiocarbamyl-N'-oxydiethylenesulfenamide was prepared by reacting morpholine, dissolved in methylene chloride, sequentially with a NaOCl bleach solution and carbon disulfide in the manner described in U.S. Pat. No. 3,985,743. At the end of the reaction the methylene chloride organic phase was separated from the water phase. The methylene chloride solution was diluted with methylene chloride to a total solids content of 12 percent. 100 volumes of this organic solution containing the N-oxydiethylenethiocarbamyl-N'-oxydiethylenesulfenamide was stirred with 100 volumes of hydrochloric acid having a normality of 0.06 N, the HCl being used in amount of 5.8 milliequivalents of acid based on 15.7 grams of solids. The aqueous acid and organic solutions were stirred together for about 15 minutes to a pH of the mixture of 2.7. The acid phase was separated from the organic solution by transferring the mixture to a separating vessel settling the layers, and decanting. The organic solution was then washed twice with 100 volumes of distilled water and separated from the water. The methylene chloride was then flashed off and the dried N-oxydiethylenecarbamyl-N'-oxydiethylenesulfenamide collected. The melting point of the N-oxydiethylenecarbamyl-N'-oxydiethylenesulfenamide was found to be 134.8° C. A sample of N-oxydiethylenecarbamyl-N'-oxydiethylenesulfenamide was aged in an air over at 100° C. for 60 minutes to test for stability. The melting point after aging was determined and found to be 133.0° C., for a ΔT of 1.8, this sample being very stable. When a control run was made without the acid wash, using only water washes, the unaged melting point was found to be 134.4° C. and the aged melting point was found to be 128.4° , for a ΔT of 6.0, which represents a very unstable product with unsatisfactory storage stability and product activity.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | carbon disulfide | C(=S)=S | CS2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | NaOCl | [O-]Cl.[Na+]
product | N-oxydiethylenethiocarbamyl-N'-oxydiethylenesulfenamide | C1COCCN1C(=S)SN2CCOCC2 | C9H16N2O2S2
